US04098879
3-pyridyl methanol hydrofluoride (product I)
To a methanolic solution of 3-pyridyl methanol add the stoichiometric quantity of hydrofluoric acid in 40% aqueous solution.

reactant | 3-pyridyl methanol | N1=CC(=CC=C1)CO | C6H7NO
reactant | hydrofluoric acid | F | FH
product | 3-pyridyl methanol hydrofluoride | F.N1=CC(=CC=C1)CO | InChI=1S/C6H7NO.FH/c8-5-6-2-1-3-7-4-6;/h1-4,8H,5H2;1H
